* source FILTRU_N_2
V_V2         0 VSS 12
V_V1         N09075 0 12
X_D1         N09075 N138640 awb1n4148 PARAMS:                
X_D2         N138640 N138950 awb1n4148 PARAMS:                
X_D3         N138950 N13921 awb1n4148 PARAMS:                
R_R12         N140301 N140300  100 TC=0,0 
R_R13         N140300 N140530  100 TC=0,0 
R_R14         N140530 0  100 TC=0,0 
R_R15         N14199 N140301  100 TC=0,0 
R_R16         N13921 N14199  100 TC=0,0 
Q_Q7         N45357 N45979 N45553 QBC807-25 
R_Rr1         N46031 N45803  150k TC=0,0 
R_Rr2         N465791 N45803  510 TC=0,0 
R_RL         0 VO  600 TC=0,0 
J_Q10         N45975 N45803 N45737 JMMBFJ309LT1 
R_R8         N45897 N09075  10k TC=0,0 
V_V4         VI 0  AC 1
+SIN 0 10m 2k 0 0 0
R_R18         VSS N46147  100 TC=0,0 
R_R4         N45607 VI  10k TC=0,0 
Q_Q12         VSS N46377 VO QBC807-25 
X_R3         N45503 N45413 N45393 POT PARAMS: SET=0.5 VALUE=100k
X_R1         N45607 N45563 N45623 POT PARAMS: SET=0.5 VALUE=500k
C_C2         N45623 N45563  220n  TC=0,0 
Q_Q5         N45979 N45975 N459591 QBC807-25 
Q_Q11         N09075 N45357 VO QBC817-25 
R_Rr3         0 N465791  100 TC=0,0 
Q_Q14         N46031 N46031 N46377 QBC817-25 
R_R7         VSS N45891  68 TC=0,0 
X_R22         N45803 N45803 N46031 POT PARAMS: SET=1 VALUE=500k
R_R6         VSS N45851  100 TC=0,0 
Q_Q4         N45897 N45897 N45851 QBC817-25 
R_R17         N45553 N455390  22 TC=0,0 
J_Q9         N45979 N45413 N45737 JMMBFJ309LT1 
Q_Q13         N45357 N45357 N46031 QBC817-25 
R_R20         N460031 N09075  100 TC=0,0 
C_C6         N45393 0  1n  TC=0,0 
R_R19         N455390 N09075  100 TC=0,0 
C_C4         N45503 VI  10n  TC=0,0 
Q_Q3         N45737 N45897 N45891 QBC817-25 
Q_Q6         N45975 N45975 N460031 QBC807-25 
R_R21         N459591 N09075  100 TC=0,0 
C_C1         N45563 N45607  47n  TC=0,0 
R_R2         N45563 N45413  10k TC=0,0 
Q_Q8         N46377 N45897 N46147 QBC817-25 
R_R5         0 N45623  10k TC=0,0 
.PARAM  x=0.5
